### PR TITLE
finish proof of hpoly' in PolyFourierCoeffBound

### PR DESCRIPTION
**Pull request by dwrensha**
I had some help from gemini-2.5-pro on this one.

### CODE REVIEW

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 1]
```diff
@@ -46,17 +46,26 @@ noncomputable def DivDiscBound : ℝ :=
...
+  have h_shift : (fun n : ℕ => c (n + n₀)) =O[atTop] (fun n : ℕ => (n + n₀ : ℂ) ^ k) := by
+    simp only [isBigO_iff, eventually_atTop] at hpoly ⊢
+    obtain ⟨C, m, hCa⟩ := hpoly
+    use C;
+    simp only [norm_pow, norm_eq_abs] at hCa ⊢
+    refine ⟨(m - n₀).toNat, fun n hn ↦ ?_⟩
+    exact_mod_cast hCa (n + n₀) (by grind)
+  refine h_shift.trans ?_
+  simp only [isBigO_iff, eventually_atTop]
+  use 2 ^ k;
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
  use 2 ^ k
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 2]
```diff
@@ -46,17 +46,26 @@ noncomputable def DivDiscBound : ℝ :=
...
 theorem hpoly' : (fun (n : ℕ) ↦ c (n + n₀)) =O[atTop] (fun (n : ℕ) ↦ (n ^ k : ℝ)) := by
-  simp [isBigO_iff] at hpoly ⊢
-  obtain ⟨C, m, hCa⟩ := hpoly
-  use C
-  use (m - n₀).toNat
-  sorry
+  have h_shift : (fun n : ℕ => c (n + n₀)) =O[atTop] (fun n : ℕ => (n + n₀ : ℂ) ^ k) := by
+    simp only [isBigO_iff, eventually_atTop] at hpoly ⊢
+    obtain ⟨C, m, hCa⟩ := hpoly
+    use C;
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
    use C
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean (hunk 1 above)
Comment (dwrensha) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]: done

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean (hunk 2 above)
Comment (dwrensha) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]: Done.
